US04847305
2,6-bis(1,1-dimethylethyl)-4-[(1-methylethyl)thio]phenol
To a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (2.0 g, 8.4 mmole) in acetone (20 ml) was added sodium hydroxide (0.71 g, 17.6 mmole). After the sodium hydroxide had reacted, 2-bromopropane (1.08 g, 8.8 mmole) was added, and the reaction mixture was stirred for two hours. The mixture was concentrated in vacuo to an oil that was dissolved in diethyl ether (50 ml), washed with water (30 ml in two portions), dried over sodium sulfate, filtered, and concentrated in vacuo to a solid. Chromatography on silica gel and recrystallization from aqueous methanol gave the title compound, m.p. 80°-82°.

reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 8.4 mmole, 2.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | sodium hydroxide | 17.6 mmole, 0.71 g | [OH-].[Na+]
reactant | 2-bromopropane | 8.8 mmole, 1.08 g | BrC(C)C | C3H7Br
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,6-bis(1,1-dimethylethyl)-4-[(1-methylethyl)thio]phenol | CC(C)(C)C1=C(C(=CC(=C1)SC(C)C)C(C)(C)C)O | C17H28OS
